Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11],4.60225352333
[O:1]=[C:2]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:3][H:4]>>[O:1][C@:2]([O:3][H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.13687742963
[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.1239502969
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:10])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:9]#[C:11][H:12],1.44127404507
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-4.08273703332
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3],0.378000200029
[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:9]([H:10])[H:11].[O:7][H:8],2.41616933544
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7].[H:8],1.63528996553
[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],-1.16874606433
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2][O:3].[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.7311023501099998
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.03726152597
[H:1][C:2]#[C:4][C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.80261740994
[C:1][C:2][O:3].[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],1.53899215275
[H:1][O:2][C:3][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.97134218379
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8]>>[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]#[C:8],1.73285675644
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-0.75605427809
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.1981985026
[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.75521822858
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14],8.614433582110001
[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.942908237009
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.0815706398800025
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:6][C:7]([H:8])([H:9])[H:10].[C:2]([H:3])([H:4])=[C:5],2.66677621873
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],2.01095540814
[C:1]#[C:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:1].[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],6.47496983878
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.00915675031
[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:12][H:13],2.90455793079
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],1.49099554773
[C:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],3.49360958946
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:4]([H:5])([H:6])=[C:7][O:8][H:9].[H:1][C:2]#[C:3],3.9633578388
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:3],4.068195537869999
